US07485634B2
To a stirred suspension of LAH (3.4 g, 90 mmol) in THF (40 mL, anhyd) chilled to 0° C. was added a solution of 2-(1H-indol-3-yl)propionitrile (2.5 g, 14.7 mmol) in THF (40 mL, anhyd). The reaction mixture was allowed to warm to ambient temperature and then heated at reflux. After 1 hour, the reaction mixture was cooled to 0° C. and quenched cautiously with wet THF (5-10% H2O) until gas evolution had ceased. The resulting mixture was filtered through Celite™ and concentrated to give a brown residue. The filtering agent was rinsed with Et2O (100 mL), which was combined with the residue, dried (Na2SO4), and concentrated under reduced pressure to yield 2-(1H-indol-3-yl)propylamine (2.1 g, 82%) as a pale amber oil; 1H-NMR (CDCl3): δ 8.28 (1H, br s), 7.61 (1H, d), 7.36 (1H, d), 7.16 (1H, app t), 7.08 (1H, app t), 6.96 (1H, br s), 3.41 (2H, br s), 3.19 (1H, q), 2.95 (2H, app d), 1.35 (3H, d).

reactant | LAH | 90 mmol, 3.4 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-(1H-indol-3-yl)propionitrile | 14.7 mmol, 2.5 g | N1C=C(C2=CC=CC=C12)C(C#N)C | C11H10N2
solvent | THF | C1CCOC1 | C4H8O
product | 2-(1H-indol-3-yl)propylamine | 2.1 g, 82% | N1C=C(C2=CC=CC=C12)C(CN)C | C11H14N2
